US07288655B2
tert-Butyl 2-(3-oxopropyl)-5,6,7,8-tetrahydropyrido[2,3-b]azepine-9-carboxylate
A suspension of 1,1-dimethylethyl 2-chloro-5,6,7,8-tetrahydro-9H-pyrido[2,3-b]azepine-9-carboxylate (3.32 kg), potassium carbonate (3.25 kg), palladium acetate (132 g) and 1,1′-bis(diphenylphosphanyl)ferrocene (dppf) ((326 g) in THF (16.5 L) was degassed and put under an atmosphere of nitrogen. The THF solution of the hydroborated acrolein acetal was then added. The reaction mixture was degassed, purged with nitrogen and then heated at reflux for 26 hours. The reaction mixture was then cooled to 20° C., water (66 L) was added and the mixture was stirred for 30 minutes. The two layers were allowed to settle and the lower aqueous phase was discarded. IPAc (10 L) was then added and, after stirring for 5 minutes and allowing the mixture to settle, the lower aqueous phase was again discarded. The resulting organic layer was concentrated by distillation under reduced pressure to minimum volume (55 L of distillate removed) and a second portion of IPAc (33 L) was then charged. The two layers were again separated, the aqueous phase was discarded and the remaining organic layer was concentrated to minimum volume (10 L) under reduced pressure. IPAc (23 L) was added and the mixture held overnight at ambient temperature. The solution was cooled to 0° C. and treated with pre-cooled (0° C.) 2M hydrochloric acid (23.0 L), while keeping the temperature below 10° C. The resulting two phase mixture was stirred at 0° C. for 4 hours.

reactant | 1,1-dimethylethyl 2-chloro-5,6,7,8-tetrahydro-9H-pyrido[2,3-b]azepine-9-carboxylate | 3.32 kg | ClC=1C=CC2=C(N(CCCC2)C(=O)OC(C)(C)C)N1 | C14H19ClN2O2
reactant | potassium carbonate | 3.25 kg | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 16.5 L | C1CCOC1 | C4H8O
catalyst | palladium acetate | 132 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphanyl)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | tert-Butyl 2-(3-oxopropyl)-5,6,7,8-tetrahydropyrido[2,3-b]azepine-9-carboxylate | O=CCCC=1C=CC2=C(N(CCCC2)C(=O)OC(C)(C)C)N1 | C17H24N2O3
